US05424443
N-(2,4-dichloro-6-fluorobenzothiazol-7-yl)-perhydroimidazo[1,5-a]pyridine-1,3-dione
2.6 g Ethyl piperidine-2-carboxylate was added to a solution of 4.2 g 2,4-dichloro-6-fluoro-7-isocyanato-benzothiazole in 50 ml tetrahydrofuran. The mixture was heated for 5 hours under reflux. After cooling, the solvent was removed in vacuo and the residue recrystallised several times from ethyl acetate. Yield: 2.5 g=42% of theory m.p.: 168°-170° C.

reactant | Ethyl piperidine-2-carboxylate | 2.6 g | N1C(CCCC1)C(=O)OCC | C8H15NO2
reactant | 2,4-dichloro-6-fluoro-7-isocyanato-benzothiazole | 4.2 g | ClC=1SC2=C(N1)C(=CC(=C2N=C=O)F)Cl | C8HCl2FN2OS
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(2,4-dichloro-6-fluorobenzothiazol-7-yl)-perhydroimidazo[1,5-a]pyridine-1,3-dione | ClC=1SC2=C(N1)C(=CC(=C2N2C(N1C(CCCC1)C2=O)=O)F)Cl | C14H10Cl2FN3O2S
